data/oMe_Silver.jsonl
{"reaction_id": "NR-218_1-CC(C)C_2-c1ccc(C(F)(F)F)cc1","level": "medium","name": "Petrenko-Kritschenko Piperidone Synthesis","reactants_smiles": ["O=C(OCC)C(CC(C)C)C(=O)C(CC(C)C)C(=O)OCC","O=CC(c1ccc(C(F)(F)F)cc1)","N"],"products_smiles": ["C1(C(CC(C)C)(C(NC(C(CC(C)C)1C(OCC)=O)(Cc1ccc(C(F)(F)F)cc1))(Cc1ccc(C(F)(F)F)cc1))C(OCC)=O)=O"],"conditions": "acid","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(CC(C)C)(C(N)C(c1ccc(C(F)(F)F)cc1))C(=O)C(CC(C)C)C(=O)OCC","step_weight": 0,"rationale": "Ammonia attacks the aldehyde carbonyl due to its high electrophilicity, and acid catalysis enhances carbonyl polarization, facilitating imine precursor formation."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(CC(C)C)(C(N=C(Cc1ccc(C(F)(F)F)cc1))C(c1ccc(C(F)(F)F)cc1))C(=O)C(CC(C)C)C(=O)OCC","step_weight": 0,"rationale": "The β-keto ester enolate, stabilized by resonance, attacks the iminium carbon, favored by strong electrophilicity and acid-promoted enolization."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(CC(C)C)(C(NC(C(CC(C)C)1C(OCC)=O)(Cc1ccc(C(F)(F)F)cc1))(Cc1ccc(C(F)(F)F)cc1))C(OCC)=O)=O","step_weight": 0,"rationale": "Intramolecular attack is entropically favored; iminium electrophilicity and β-keto ester nucleophilicity drive cyclization to the thermodynamically stable piperidone."}],"description": "Under acidic conditions, ammonia first condenses with the aldehyde to form an imine, which is electrophilic. The β-keto ester enolate then attacks this iminium ion in a Mannich-type step. A second imine formation and intramolecular Mannich cyclization yield the piperidone ring."}
{"reaction_id": "NR-044_1-C1CCCCC1_2-CC_3-CCCC_4-C#CC_5-CC(C)(C)C_6-CC(C)(C)C","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](C1CCCCC1)(CC)C(CCCC)(C#CC)[N+](CC(C)(C)C)(CC(C)(C)C)[O-]"],"products_smiles": ["C(C1CCCCC1)(CC)=C(CCCC)(C#CC)","O[N](CC(C)(C)C)(CC(C)(C)C)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C1CCCCC1)(CC)=C(CCCC)(C#CC).O[N](CC(C)(C)C)(CC(C)(C)C)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
